US08080572B2
2-(4-bromophenyl)-N-hydroxyacetamidine (5.0 g, 21.8 mmol) and ethyl propiolate (2.4 mL, 24.0 mmol) were dissolved in EtOH (100 mL, 2 mol). The mixture was heated to reflux for 7 hours, cooled and then concentrated. The residue was then dissolved in diphenyl ether (75 mL, 470 mmol), heated at 190° C. for 2 hours, cooled, combined with 400 mL of hexanes, and allowed to sit overnight. The solvent was decanted and the precipitant was dissolved in DCM and purified by column chromatography (0-10% MeOH in DCM) to yield 2-(4-bromobenzyl)-1H-imidazole-4-carboxylic acid ethyl ester (3.3 g).

reactant | 2-(4-bromophenyl)-N-hydroxyacetamidine | 21.8 mmol, 5.0 g | BrC1=CC=C(C=C1)CC(=N)NO | C8H9BrN2O
reactant | ethyl propiolate | 24.0 mmol, 2.4 mL | C(C#C)(=O)OCC | C5H6O2
reactant | EtOH | 2 mol, 100 mL | CCO | C2H6O
reactant | diphenyl ether | 470 mmol, 75 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 2-(4-bromobenzyl)-1H-imidazole-4-carboxylic acid ethyl ester | 3.3 g | C(C)OC(=O)C=1N=C(NC1)CC1=CC=C(C=C1)Br | C13H13BrN2O2
